US07381719B2
Part C: 5-{4-[(3-Methylbutylamino)methyl]phenoxy}pyrazine-2-carboxamide
Place 5-(4-formylphenoxy)pyrazine-2-carboxamide (0.150 g, 0.617 mmol), 3-methylbutylamine (0.0537 g, 0.617 mmol) and 3 Å molecular sieves in a vial. Add methanol (3.1 mL), cap and stir overnight. Add NaBH4 (in excess over two portions) and stir until the gasses stop evolving. Load the reaction mixture directly onto a 5 g ISCO® pre-load column. Dry the column in a vacuum oven at room temperature. Purify by eluting through a 10 g ISCO® column with 2.0 M NH3 in methanol, ethyl acetate and hexanes to give the title compound (0.0606 g, 31.2%): MS ES+ 315.1 (M+H)+, base peak 228.0 (M−C5H12N)+; HPLC [YMC-Pack Pro C-18 (150×4.6 mm, S-5 microm), 0.1% TFA/acetonitrile in 0.1% TFA/water at 1.0 mL/min, 5-95% over 19 min], tR=8.5 min., 96.4% purity.

reactant | 5-(4-formylphenoxy)pyrazine-2-carboxamide | 0.617 mmol, 0.150 g | C(=O)C1=CC=C(OC=2N=CC(=NC2)C(=O)N)C=C1 | C12H9N3O3
reactant | 3-methylbutylamine | 0.617 mmol, 0.0537 g | CC(CCN)C | C5H13N
reactant | NaBH4 | [BH4-].[Na+]
solvent | methanol | 3.1 mL | CO | CH4O
product | 5-{4-[(3-Methylbutylamino)methyl]phenoxy}pyrazine-2-carboxamide | 0.0606 g, 31.2% | CC(CCNCC1=CC=C(OC=2N=CC(=NC2)C(=O)N)C=C1)C | C17H22N4O2
